US04757081
To 300 ml of toluene were added 7.5 g (0.036 mole) of N-phenyl-1-phenylpropaneimine, 5.8 g (0.031 mole) of ethyl 2-methylphenylpropiolate and 6.0 g (0.045 mole) of aluminum chloride. The reaction mixture was stirred with heating at 60° C. for 3 days in a nitrogen atmosphere. After cooling, the reaction mixture was poured into 500 ml of 2N sulfuric acid, followed by extraction with chloroform. After washing the organic layer with water, it was dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate, the solvent was distilled off and the residue was purified by chromatography on a silica gel column (eluent: ethyl acetate). The resultant crystals were washed with a 2:1 mixed solvent of acetone and hexane to obtain 0.4 g of 6-(2-methyl-phenyl)-3-methyl-1,2-diphenyl-4(1H)-pyridinone having a melting point of 188°-191° C.

reactant | N-phenyl-1-phenylpropaneimine | 0.036 mole, 7.5 g | C1(=CC=CC=C1)N=C(CC)C1=CC=CC=C1 | C15H15N
reactant | ethyl 2-methylphenylpropiolate | 0.031 mole, 5.8 g | CC1=C(C=CC=C1)C#CC(=O)OCC | C12H12O2
reactant | aluminum chloride | 0.045 mole, 6.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sulfuric acid | 2N, 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(2-methyl-phenyl)-3-methyl-1,2-diphenyl-4(1H)-pyridinone | 0.4 g | CC1=C(C=CC=C1)C1=CC(C(=C(N1C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C25H21NO
